US06960591B2
Into a DMF solution (150 ml) containing 4-amino-3-nitrophenol (4.72 g) were added successively potassium carbonate (12.8 g), tetrabutylammonium iodide (0.56 g) and 3-chloromethylpyridine hydrochloride (5.42 g), followed by about 1.5 hours of heating at 60° C. The reaction solution was concentrated under reduced pressure, ice-water (250 ml) and 1M hydrochloric acid aqueous solution (30 ml) were poured thereto, and the formed crystals were collected by filtration and dried to obtain 2-nitro-4-(pyridin-3-ylmethoxy)aniline (7.39 g). Hereinafter, the compounds of Reference Examples 35 and 60 were obtained similarly.

reactant | 4-amino-3-nitrophenol | 4.72 g | NC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
reactant | potassium carbonate | 12.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloromethylpyridine hydrochloride | 5.42 g | Cl.ClCC=1C=NC=CC1
catalyst | tetrabutylammonium iodide | 0.56 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 2-nitro-4-(pyridin-3-ylmethoxy)aniline | 7.39 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OCC=1C=NC=CC1 | C12H11N3O3
